US06960607B2
Step e) 3-(6-Hydroxy-2-naphthyl)-1,2-benzisoxazol-6-ol.
Hydriotic acid (57% w/w aq., 10 mL) was added into a mixture of 6-methoxy-3-(6-methoxy-2-naphthyl)-1,2-benzisoxazole (1.0 g, 3.3 mmol), acetic acid (10 mL) and acetic anhydride (5 mL). The reaction mixture was stirred at 160° C. for 2 h, and then cooled to room temperature and poured into water. The precipitated solid was filtered off and dried to give a yellow solid (0.89 g, 91% yield, m.p. 280-282° C.); MS m/e 278 (M+H)+.

reactant | Hydriotic acid | 10 mL | I | HI
reactant | 6-methoxy-3-(6-methoxy-2-naphthyl)-1,2-benzisoxazole | 3.3 mmol, 1.0 g | COC1=CC2=C(C(=NO2)C2=CC3=CC=C(C=C3C=C2)OC)C=C1 | C19H15NO3
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 3-(6-Hydroxy-2-naphthyl)-1,2-benzisoxazol-6-ol | 0.89 g, 91% yield | OC=1C=C2C=CC(=CC2=CC1)C1=NOC2=C1C=CC(=C2)O | C17H11NO3
